US05308837
Step C: 2,2-Difluoro-3-Tetrahydropyranyloxy-1-Propanol
A solution of ethyl 2,2-difluoro-3-tetrahydropyranyloxypropionate (3.5 g, 15 mmol) in absolute ethanol (10 ml) was added dropwise to a slurry of sodium borohydride (0.57 g, 15 mmol) at room temperature in absolute ethanol (20 ml). Then the mixture was stirred an additional hour at room temperature. Then the mixture was concentrated in vacuo, hydrolyzed with aqueous ammonium chloride, extracted with ethyl acetate and dried over magnesium sulfate. The product was purified by flash chromatography on silica gel (ethyl acetate:hexane; 25:75) (2.7 g, 90%).

reactant | ethyl 2,2-difluoro-3-tetrahydropyranyloxypropionate | 15 mmol, 3.5 g | FC(C(=O)OCC)(COC1OCCCC1)F | C10H16F2O4
reactant | sodium borohydride | 15 mmol, 0.57 g | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2,2-Difluoro-3-Tetrahydropyranyloxy-1-Propanol | FC(CO)(COC1OCCCC1)F | C8H14F2O3
